US06511995B1
Synthesis of 4-[(5-nitro-2-pyridinyl)oxy]-1-indanone
1.0 g of 4-hydroxy-1-indanone, 1.07 g of 2-chloro-5-nitropyridine and 5 g of anhydrous potassium carbonate were dissolved in 10 ml of N,N-dimethylformamide (DMF) and the mixture was stirred at room temperature for 17 hours. After the completion of the reaction, 50 ml of water was added to the reaction solution and the solution was extracted with ethyl acetate. After the organic (ethyl acetate) layer was washed with water and dried over anhydrous sodium sulfate, the solvent was distilled off. The resulting residue was recrystallized from ethyl acetate to obtain the titled compound (1.36 g, pale yellow powder).

reactant | 4-hydroxy-1-indanone | 1.0 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | 2-chloro-5-nitropyridine | 1.07 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[(5-nitro-2-pyridinyl)oxy]-1-indanone | 1.36 g | [N+](=O)([O-])C=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O | C14H10N2O4
